US05719152
3) Diethyl 2-(3-methyl-6-nitrophenyl)ethylmalonate
To a suspension of 60% sodium hydride (1.36 g, 34 mmol) in DMF (35 mL) was added diethyl malonate (7.00 g, 43.7 mmol). The mixture was heated at 60° C. for 1.5 h, allowed to cool at room temperature and 3-methyl-6-nitrostyrene (4.80 g, 29.4 mmol) in DMF (10 mL) was added dropwise. The mixture was again heated at 4°~50° C. for 4 h, poured into 0.1N hydrochloric acid, and extracted with a 1:1 toluene/ethyl acetate. The extract was washed with brine, dried over magnesium sulfate, and concentrated. The residue was purified by silica gel column chromatography with 10:1 hexane/ethyl acetate to give 2.70 g of the title compound (28%).

reactant | sodium hydride | 34 mmol, 1.36 g | [H-].[Na+]
reactant | diethyl malonate | 43.7 mmol, 7.00 g | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | 3-methyl-6-nitrostyrene | 29.4 mmol, 4.80 g | CC=1C=C(C=C)C(=CC1)[N+](=O)[O-] | C9H9NO2
reactant | hydrochloric acid | 0.1N | Cl | ClH
solvent | DMF | 35 mL | CN(C)C=O | C3H7NO
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | Diethyl 2-(3-methyl-6-nitrophenyl)ethylmalonate | 2.70 g, 28% | CC=1C=C(C(=CC1)[N+](=O)[O-])CCC(C(=O)OCC)C(=O)OCC | C16H21NO6
